US06936612B2
4-[6-(6-Acetoxymethyl-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.21 g, 0.36 mmol), prepared as in Example 28, was dissolved in 1:1 chloroform:methanol (8 ml), and the solution was purged with anhydrous hydrogen chloride gas then allowed to stir for 3 hours at room temperature. This mixture was added to diethyl ether (50 ml) to give a solid which was collected by filtration, washed with diethyl ether, then dried in vacuo to provide 8-cyclopentyl-6-hydroxymethyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride as a solid (0.17 g, 93%). MS (APCI); M++1: Calc'd, 422.5. Found, 422.2. Analyses for C22H27N7O2.1.0 H2O.2.0HCl: Calc'd: C, 51.56; H, 6.10; N, 19.13; Cl (ionic), 13.84; H2O, 3.51. Found: C, 51.13; H, 5.95; N, 19.05; Cl (ionic), 13.70; H2O, 0.67.

reactant | 4-[6-(6-Acetoxymethyl-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.36 mmol, 0.21 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)COC(C)=O)=O)C2CCCC2 | C29H37N7O5
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-cyclopentyl-6-hydroxymethyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride | 0.17 g, 93% | Cl.C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)CO)=O | InChI=1S/C22H27N7O2.ClH/c30-14-16-11-15-12-25-22(27-20(15)29(21(16)31)17-3-1-2-4-17)26-19-6-5-18(13-24-19)28-9-7-23-8-10-28;/h5-6,11-13,17,23,30H,1-4,7-10,14H2,(H,24,25,26,27);1H
